US08455646B2
Preparation of (R)-3-[2-(3-fluoro-4-methyl-phenylamino)-2-phenyl-acetoxy]-1-(2-oxo-2-phenyl-ethyl)-1-azonia-bicyclo[2.2.2]octane bromide (C209)
(R)-Quinuclidin-3-yl 2-(3-fluoro-4-methylphenylamino)-2-phenylacetate (C97) (80 mg, 0.22 mmol) and 2-bromo-1-phenylethanone (45.4 mg, 0.23 mmol) are dissolved in acetonitrile (3 mL) and stirred at RT overnight (Conversion complete by UPLC/MS). Acetonitrile is evaporated and the residue is purified by flash chromatography (DCM/MeOH=97/3) affording the title compound as a white solid (29 mg, 23% yield, bromide salt, mixture of diastereoisomers).

reactant | (R)-Quinuclidin-3-yl 2-(3-fluoro-4-methylphenylamino)-2-phenylacetate | 0.22 mmol, 80 mg | FC=1C=C(C=CC1C)NC(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C22H25FN2O2
reactant | 2-bromo-1-phenylethanone | 0.23 mmol, 45.4 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (R)-3-[2-(3-fluoro-4-methyl-phenylamino)-2-phenyl-acetoxy]-1-(2-oxo-2-phenyl-ethyl)-1-azonia-bicyclo[2.2.2]octane bromide | 29 mg, 23% yield | [Br-].FC=1C=C(C=CC1C)NC(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C30H32FN2O3.BrH/c1-21-12-13-25(18-26(21)31)32-29(24-10-6-3-7-11-24)30(35)36-28-20-33(16-14-23(28)15-17-33)19-27(34)22-8-4-2-5-9-22;/h2-13,18,23,28-29,32H,14-17,19-20H2,1H3;1H/q+1;/p-1/t23?,28-,29?,33?;/m0./s1
